US04762829
N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-N',N'-dimethylethylenediamine
The procedure of Example 9 was repeated except that 6.1 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid and 3.3 ml of N,N-dimethylethylene diamine were used as starting materials. 6.5 g (yield 88%) of the title compound was obtained as a pale yellow oil.

reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid | 6.1 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
reactant | N,N-dimethylethylene diamine | 3.3 ml | CN(CCN)C | C4H12N2
product | N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-N',N'-dimethylethylenediamine | 6.5 g, yield 88% | CC(=CC(=O)NCCN(C)C)CCC=C(CCC=C(CCC=C(C)C)C)C | C24H42N2O
